US08445487B2
4-(2-Chloro-9H-purin-6-yl)morpholine (75 mg) was reacted with 2-bromoethyl acetate via General Procedure C to give 2-(2-chloro-6-morpholino-9H-purin-9-yl)ethyl acetate which was reacted with 150 mg tert-butyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl carbonate via General Procedure A and purified via reverse phase HPLC to give 59.4 mg of 144 as a white solid. MS (Q1) 342.2 (M)+

reactant | 4-(2-Chloro-9H-purin-6-yl)morpholine | 75 mg | ClC1=NC(=C2N=CNC2=N1)N1CCOCC1 | C9H10ClN5O
reactant | 2-bromoethyl acetate | C(C)(=O)OCCBr | C4H7BrO2
product | 2-(2-chloro-6-morpholino-9H-purin-9-yl)ethyl acetate | C(C)(=O)OCCN1C2=NC(=NC(=C2N=C1)N1CCOCC1)Cl | C13H16ClN5O3
